US05324747
A mixture of 11.3 g of 3-(octadecyloxy)-5-[(5-methoxy-5-oxopentyl)oxy]benzoic acid phenylmethyl ester and 1.5 g of 10% palladium on carbon in 250 ml of THF was stirred in a hydrogen atmosphere at room temperature for 4 hours. The catalyst was removed by filtration and the filtrate was concentrated at reduced pressure to a solid which was triturated with hexane and filtered to give 9.37 g (98% yield, mp 68°-70°) of 3-(octadecyloxy)-5-[(5-methoxy-5-oxopentyl)oxy]benzoic acid.

reactant | 3-(octadecyloxy)-5-[(5-methoxy-5-oxopentyl)oxy]benzoic acid phenylmethyl ester | 11.3 g | C1(=CC=CC=C1)COC(C1=CC(=CC(=C1)OCCCCC(=O)OC)OCCCCCCCCCCCCCCCCCC)=O | C38H58O6
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 3-(octadecyloxy)-5-[(5-methoxy-5-oxopentyl)oxy]benzoic acid | 9.37 g, 98% yield | C(CCCCCCCCCCCCCCCCC)OC=1C=C(C(=O)O)C=C(C1)OCCCCC(=O)OC | C31H52O6
